US05462952
2-[(2,6-Dichloro-3-methylphenyl)amino]-benzene carboximidic acid, hydrazide
Hydrazine hydrate (430 μl) is added dropwise to a room temperature solution of 2-[(2,6-dichloro-3-methylphenyl)amino]-benzene thioamide (1.71 g, 5.48 mmol) in 30 ml of methanol. The solution is stirred at room temperature under nitrogen for five hours, then concentrated in vacuo to half its original volume. This material is chromatographed, eluting with ethyl acetate:hexane (gradient of 1:1 to 3:1) to give 1.15 g (68%) of a glassy pale yellow solid. This material darkens and softens after two days at room temperature.

reactant | Hydrazine hydrate | 430 μl | O.NN
reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]-benzene thioamide | 5.48 mmol, 1.71 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(N)=S | C14H12Cl2N2S
solvent | methanol | 30 ml | CO | CH4O
product | 2-[(2,6-Dichloro-3-methylphenyl)amino]-benzene carboximidic acid, hydrazide | 1.15 g, 68% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(=N)NN | C14H14Cl2N4
